US04626542
4-(5H-Dibenzo[a,d]cyclohepten-5-yl)-1-isopropylpiperidine
0.50 gram (1.8 millimoles) of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine (prepared in a manner described in the preceding example), 3.96 grams (68.1 millimoles) of acetone and 5 milliliters of methanol were warmed gently to start dissolution. To this was added 0.30 gram (11 millimoles) of aluminum bits and a catalytic amount (0.01 gram; 0.04 millimole) of mercuric chloride and the resulting mixture stirred for 2.5 hours. A TLC analysis of the reaction mixture showed presence of some but minor amount of product. The mixture was stirred for 48 hours. A TLC analysis at this time (1 percent methanol/99 percent chloroform saturated with ammonia) indicated consumption of the starting material with the formation of a new product which was determined by 1H NMR to be a 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-isopropylpiperidine product. The reaction mixture was filtered through a pad of celite and the solvent removed in vacuo to obtain a residue which after recrystallization from a minimum amount of hot acetonitrile and drying for 3.5 hours at 100° C./1 mm. Hg, was a white powder, m.p. 124°-126° C. The product had elemental analyses as follows:

reactant | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine | 1.8 millimoles, 0.50 gram | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCNCC3 | C20H21N
reactant | acetone | 68.1 millimoles, 3.96 grams | CC(=O)C | C3H6O
reactant | aluminum | 11 millimoles, 0.30 gram | [Al] | Al
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
solvent | methanol | 5 milliliters | CO | CH4O
product | 4-(5H-Dibenzo[a,d]cyclohepten-5-yl)-1-isopropylpiperidine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCN(CC3)C(C)C | C23H27N
